US08703953B2
A mixture of 4-chloro-2-methylnicotinaldehyde (100 mg, 0.643 mmol), (4-chloro-2-fluorophenyl)boronic acid (123 mg, 0.707 mmol), Cs2CO3 (628 mg, 1.928 mmol) and Pd(Ph3P)4 (52.0 mg, 0.045 mmol) in toluene (5 mL) was heated at 90° C. for 16 h. After cooling, the reaction mixture was diluted with EtOAc (10 mL) and water (10 mL). The ethyl acetate layer was concentrated and purified by silica gel chromatography (2:1 Hexane-EtOAc) to afford 4-(4-chloro-2-fluorophenyl)-2-methylnicotinaldehyde (0.15 g, 0.601 mmol, 35% yield) as a yellow solid. LCMS (ESI) m/e 250.04 [(M+H)+, calcd for C13H10ClFNO 250.0]; LC/MS retention time (Method G): tR=0.96 min.

reactant | 4-chloro-2-methylnicotinaldehyde | 0.643 mmol, 100 mg | ClC1=CC=NC(=C1C=O)C | C7H6ClNO
reactant | (4-chloro-2-fluorophenyl)boronic acid | 0.707 mmol, 123 mg | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | Cs2CO3 | 1.928 mmol, 628 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.045 mmol, 52.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-chloro-2-fluorophenyl)-2-methylnicotinaldehyde | 0.601 mmol, 0.15 g, 35% yield | ClC1=CC(=C(C=C1)C1=CC=NC(=C1C=O)C)F | C13H9ClFNO
